US06284764B1
6-iodo4-chloroquinazoline (12):
To a stirred solution of DMF (6.3 mL) in DCE (20 mL) cooled to 0° C. was added dropwise a solution of oxalyl chloride (60 mL of a 2M solution in DCE). After addition was complete, the cooling bath was removed and 6-iodo-3H-quinazolinone (10 g, 36.8 mmol) was added as a solid. The resulting mixture was heated to reflux under nitrogen for 3 hours. Upon cooling to room temperature, the reaction was quenched cautiously with H2O. CH2Cl2 was added and the bilayer transferred to a separatory funnel. The aqueous layer was extracted with CH2Cl2 (2×50 mL) and the combined organic layers dried (Na2SO4). The solvent was removed in vacuo to provide a yellow solid which was triturated with diethyl ether to remove any remaining impurities. The resulting yellow solid obtained by filtration was shown to be pure by NMR. 1HNMR (CDCl3, 400 MHz): δ: 9.05 (s, 1H), 8.65 (d, 1H), 8.21 (dd, 1H), 7.78 (d, 1H).

reactant | DMF | 6.3 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-iodo-3H-quinazolinone | 36.8 mmol, 10 g | IC1=CC2=CNC(N=C2C=C1)=O | C8H5IN2O
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | 6-iodo4-chloroquinazoline | IC=1C=C2C(=NC=NC2=CC1)Cl | C8H4ClIN2
